US07632965B2
A three-necked flask was charged with 250 ml of toluene, 60 g (0.34 mol) of (2-isocyanatoethyl) 3-chloropropionate obtained in Synthesis Example 2, and 63 g (0.49 mol) of quinoline (boiling point: 237.7° C.), followed by heating at 50° C. for 6 hours with stirring. No acryloyloxyethyl isocyanate was confirmed by gas chromatography analysis.

reactant | (2-isocyanatoethyl) 3-chloropropionate | 0.34 mol, 60 g | ClCCC(=O)OCCN=C=O | C6H8ClNO3
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | quinoline | 0.49 mol, 63 g | N1=CC=CC2=CC=CC=C12 | C9H7N
